** Name: SimpleTwoStageOpAmp_SimpleOpAmp10_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp10_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=9e-6 W=11e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=19e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=453e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=5e-6 W=5e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=8e-6 W=61e-6
mDiodeTransistorPmos6 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=10e-6 W=68e-6
mNormalTransistorNmos7 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=453e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=9e-6 W=11e-6
mNormalTransistorNmos9 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=45e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=9e-6 W=23e-6
mNormalTransistorNmos11 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=45e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=9e-6 W=97e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=19e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=277e-6
mNormalTransistorPmos15 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=5e-6 W=535e-6
mNormalTransistorPmos16 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=8e-6 W=337e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=10e-6 W=68e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.60001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp10_9

** Expected Performance Values: 
** Gain: 94 dB
** Power consumption: 14.9931 mW
** Area: 9923 (mu_m)^2
** Transit frequency: 33.1691 MHz
** Transit frequency with error factor: 33.1473 MHz
** Slew rate: 31.461 V/mu_s
** Phase margin: 60.1606°
** CMRR: 98 dB
** negPSRR: 98 dB
** posPSRR: 94 dB
** VoutMax: 4.25 V
** VoutMin: 0.940001 V
** VcmMax: 4.09001 V
** VcmMin: 0.870001 V


** Expected Currents: 
** NormalTransistorNmos: 20.9331 muA
** NormalTransistorNmos: 10.0431 muA
** NormalTransistorPmos: -113.523 muA
** DiodeTransistorPmos: -43.4049 muA
** NormalTransistorPmos: -43.4049 muA
** NormalTransistorPmos: -43.4049 muA
** NormalTransistorNmos: 86.8081 muA
** NormalTransistorNmos: 43.4041 muA
** NormalTransistorNmos: 43.4041 muA
** NormalTransistorNmos: 2757.24 muA
** DiodeTransistorNmos: 2757.24 muA
** NormalTransistorPmos: -2757.23 muA
** DiodeTransistorNmos: 113.524 muA
** NormalTransistorNmos: 113.524 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -20.9339 muA
** DiodeTransistorPmos: -10.0439 muA


** Expected Voltages: 
** ibias: 0.715001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.34401  V
** outSourceVoltageBiasXXnXX1: 0.672001  V
** outVoltageBiasXXpXX0: 4.04601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 3.83601  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.94401  V
** inner: 0.672001  V


.END