** Name: SimpleTwoStageOpAmp_SimpleOpAmp13_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp13_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=4e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=18e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=522e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=48e-6
mDiodeTransistorPmos5 FirstStageYinnerOutputLoad1 FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=10e-6 W=109e-6
mDiodeTransistorPmos6 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 sourcePmos sourcePmos pmos4 L=1e-6 W=109e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=72e-6
mNormalTransistorNmos8 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=522e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=8e-6
mNormalTransistorNmos10 FirstStageYinnerOutputLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=72e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=4e-6 W=43e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=18e-6
mNormalTransistorPmos13 outFirstStage FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=10e-6 W=109e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=278e-6
mNormalTransistorPmos15 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=224e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack2Load1 sourcePmos sourcePmos pmos4 L=1e-6 W=109e-6
Capacitor1 outFirstStage out 2.30001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp13_9

** Expected Performance Values: 
** Gain: 91 dB
** Power consumption: 14.9811 mW
** Area: 5240 (mu_m)^2
** Transit frequency: 34.3381 MHz
** Transit frequency with error factor: 34.3069 MHz
** Slew rate: 44.8571 V/mu_s
** Phase margin: 61.3065°
** CMRR: 96 dB
** negPSRR: 103 dB
** posPSRR: 91 dB
** VoutMax: 4.25 V
** VoutMin: 0.900001 V
** VcmMax: 3.59001 V
** VcmMin: 0.950001 V


** Expected Currents: 
** NormalTransistorNmos: 20.0021 muA
** NormalTransistorPmos: -93.5369 muA
** DiodeTransistorPmos: -52.6919 muA
** NormalTransistorPmos: -52.6929 muA
** NormalTransistorPmos: -52.6919 muA
** DiodeTransistorPmos: -52.6929 muA
** NormalTransistorNmos: 105.383 muA
** NormalTransistorNmos: 52.6911 muA
** NormalTransistorNmos: 52.6911 muA
** NormalTransistorNmos: 2767.19 muA
** DiodeTransistorNmos: 2767.19 muA
** NormalTransistorPmos: -2767.18 muA
** DiodeTransistorNmos: 93.5361 muA
** NormalTransistorNmos: 93.5361 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -20.0029 muA


** Expected Voltages: 
** ibias: 0.747001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.30801  V
** outSourceVoltageBiasXXnXX1: 0.654001  V
** outVoltageBiasXXpXX0: 4.21901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerOutputLoad1: 3.18601  V
** innerTransistorStack1Load1: 4.26801  V
** innerTransistorStack2Load1: 4.27101  V
** sourceTransconductance: 1.88701  V
** inner: 0.654001  V


.END