** Name: SimpleTwoStageOpAmp_SimpleOpAmp1_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp1_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=6e-6 W=7e-6
mDiodeTransistorNmos2 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=7e-6 W=232e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=6e-6 W=48e-6
mDiodeTransistorPmos4 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=1e-6 W=19e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=292e-6
mNormalTransistorNmos6 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=360e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=7e-6 W=232e-6
mNormalTransistorNmos8 outInputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=6e-6 W=99e-6
mNormalTransistorPmos9 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=292e-6
mNormalTransistorPmos10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=81e-6
mNormalTransistorPmos11 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=6e-6 W=15e-6
mNormalTransistorPmos12 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=81e-6
mNormalTransistorPmos13 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=6e-6 W=600e-6
mNormalTransistorPmos14 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=19e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp1_5

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 4.42601 mW
** Area: 9006 (mu_m)^2
** Transit frequency: 40.1631 MHz
** Transit frequency with error factor: 40.0867 MHz
** Slew rate: 52.8045 V/mu_s
** Phase margin: 62.4525°
** CMRR: 98 dB
** negPSRR: 100 dB
** posPSRR: 155 dB
** VoutMax: 3.71001 V
** VoutMin: 0.150001 V
** VcmMax: 3.96001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorNmos: 44.7851 muA
** NormalTransistorPmos: -3.16799 muA
** DiodeTransistorNmos: 63.3791 muA
** NormalTransistorNmos: 63.3791 muA
** NormalTransistorPmos: -126.758 muA
** NormalTransistorPmos: -63.3799 muA
** NormalTransistorPmos: -63.3799 muA
** NormalTransistorNmos: 690.514 muA
** NormalTransistorPmos: -690.513 muA
** DiodeTransistorPmos: -690.514 muA
** DiodeTransistorNmos: 3.16701 muA
** DiodeTransistorPmos: -44.7859 muA
** NormalTransistorPmos: -44.7869 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.17101  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outInputVoltageBiasXXpXX1: 3.14201  V
** outSourceVoltageBiasXXpXX1: 4.07101  V
** outVoltageBiasXXnXX0: 0.584001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.555001  V
** sourceTransconductance: 3.27301  V
** inner: 4.06801  V


.END