** Name: SimpleTwoStageOpAmp_SimpleOpAmp3_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp3_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=154e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=5e-6 W=26e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=3e-6 W=134e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=8e-6 W=8e-6
mDiodeTransistorPmos5 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=2e-6 W=6e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=287e-6
mNormalTransistorNmos7 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=580e-6
mNormalTransistorNmos8 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=10e-6 W=449e-6
mNormalTransistorNmos9 outInputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=5e-6 W=19e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=3e-6 W=134e-6
mNormalTransistorPmos11 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=8e-6 W=93e-6
mNormalTransistorPmos12 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=287e-6
mNormalTransistorPmos13 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=541e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=8e-6 W=26e-6
mNormalTransistorPmos15 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=541e-6
mNormalTransistorPmos16 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=8e-6 W=135e-6
mNormalTransistorPmos17 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=6e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp3_5

** Expected Performance Values: 
** Gain: 107 dB
** Power consumption: 7.36201 mW
** Area: 14153 (mu_m)^2
** Transit frequency: 64.8161 MHz
** Transit frequency with error factor: 64.7632 MHz
** Slew rate: 66.401 V/mu_s
** Phase margin: 61.8795°
** CMRR: 106 dB
** negPSRR: 107 dB
** posPSRR: 239 dB
** VoutMax: 3.12001 V
** VoutMin: 0.150001 V
** VcmMax: 3.52001 V
** VcmMin: 0.140001 V


** Expected Currents: 
** NormalTransistorNmos: 23.5871 muA
** NormalTransistorPmos: -32.8959 muA
** NormalTransistorPmos: -118.032 muA
** DiodeTransistorNmos: 85.6691 muA
** NormalTransistorNmos: 85.6701 muA
** NormalTransistorNmos: 85.6691 muA
** NormalTransistorPmos: -171.337 muA
** NormalTransistorPmos: -85.6689 muA
** NormalTransistorPmos: -85.6689 muA
** NormalTransistorNmos: 1106.63 muA
** NormalTransistorPmos: -1106.62 muA
** DiodeTransistorPmos: -1106.62 muA
** DiodeTransistorNmos: 32.8951 muA
** DiodeTransistorNmos: 118.033 muA
** DiodeTransistorPmos: -23.5879 muA
** NormalTransistorPmos: -23.5879 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.68601  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.705001  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outInputVoltageBiasXXpXX1: 2.55201  V
** outSourceVoltageBiasXXpXX1: 3.77601  V
** outVoltageBiasXXnXX0: 0.677001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.555001  V
** innerTransistorStack2Load1: 0.150001  V
** sourceTransconductance: 3.22701  V
** inner: 3.77601  V


.END