** Name: SimpleTwoStageOpAmp_SimpleOpAmp45_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp45_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=9e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=29e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=2e-6 W=180e-6
mNormalTransistorNmos6 out outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=235e-6
mNormalTransistorNmos7 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=50e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=25e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=134e-6
mNormalTransistorNmos10 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=50e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=111e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=111e-6
mNormalTransistorPmos13 out outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=579e-6
mNormalTransistorPmos14 outFirstStage outVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=2e-6 W=78e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourcePmos sourcePmos pmos4 L=2e-6 W=180e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=90e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=90e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=16e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp45_1

** Expected Performance Values: 
** Gain: 124 dB
** Power consumption: 14.9871 mW
** Area: 3160 (mu_m)^2
** Transit frequency: 33.0101 MHz
** Transit frequency with error factor: 33.0101 MHz
** Slew rate: 31.1367 V/mu_s
** Phase margin: 61.3065°
** CMRR: 143 dB
** VoutMax: 4.5 V
** VoutMin: 0.510001 V
** VcmMax: 3.78001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 24.7811 muA
** NormalTransistorNmos: 132.968 muA
** NormalTransistorNmos: 72.4891 muA
** NormalTransistorNmos: 108.89 muA
** NormalTransistorNmos: 72.4891 muA
** NormalTransistorNmos: 108.89 muA
** DiodeTransistorPmos: -72.4899 muA
** NormalTransistorPmos: -72.4899 muA
** NormalTransistorPmos: -72.4899 muA
** NormalTransistorPmos: -72.8029 muA
** NormalTransistorPmos: -36.4009 muA
** NormalTransistorPmos: -36.4009 muA
** NormalTransistorNmos: 2611.91 muA
** NormalTransistorPmos: -2611.9 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -24.7819 muA
** DiodeTransistorPmos: -132.967 muA


** Expected Voltages: 
** ibias: 1.125  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.920001  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** outVoltageBiasXXpXX1: 3.68801  V
** outVoltageBiasXXpXX2: 3.93201  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load2: 4.57301  V
** out1: 4.22301  V
** sourceGCC1: 0.534001  V
** sourceGCC2: 0.534001  V
** sourceTransconductance: 3.21401  V


.END