** Name: SimpleTwoStageOpAmp_SimpleOpAmp50_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp50_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 FirstStageYinnerLoad2 FirstStageYinnerLoad2 sourceNmos sourceNmos nmos4 L=2e-6 W=197e-6
mDiodeTransistorNmos2 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=174e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=41e-6
mNormalTransistorNmos5 outVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=328e-6
mNormalTransistorNmos6 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=418e-6
mNormalTransistorNmos7 outFirstStage FirstStageYinnerLoad2 sourceNmos sourceNmos nmos4 L=2e-6 W=197e-6
mNormalTransistorNmos8 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=31e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=31e-6
mNormalTransistorNmos10 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=475e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=255e-6
mNormalTransistorPmos12 FirstStageYinnerLoad2 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=466e-6
mNormalTransistorPmos13 outFirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=466e-6
mNormalTransistorPmos14 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=171e-6
mNormalTransistorPmos15 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=171e-6
mNormalTransistorPmos16 out outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=492e-6
Capacitor1 outFirstStage out 2.30001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp50_1

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 11.4271 mW
** Area: 5576 (mu_m)^2
** Transit frequency: 33.3021 MHz
** Transit frequency with error factor: 33.2373 MHz
** Slew rate: 72.3835 V/mu_s
** Phase margin: 60.7336°
** CMRR: 99 dB
** VoutMax: 4.68001 V
** VoutMin: 0.150001 V
** VcmMax: 5.08001 V
** VcmMin: 1.05001 V


** Expected Currents: 
** NormalTransistorNmos: 416.289 muA
** NormalTransistorNmos: 325.649 muA
** NormalTransistorPmos: -189.258 muA
** NormalTransistorPmos: -314.333 muA
** NormalTransistorPmos: -189.258 muA
** NormalTransistorPmos: -314.333 muA
** DiodeTransistorNmos: 189.259 muA
** NormalTransistorNmos: 189.259 muA
** NormalTransistorNmos: 250.15 muA
** NormalTransistorNmos: 125.075 muA
** NormalTransistorNmos: 125.075 muA
** NormalTransistorNmos: 904.698 muA
** NormalTransistorPmos: -904.697 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -416.288 muA
** DiodeTransistorPmos: -325.648 muA


** Expected Voltages: 
** ibias: 0.558001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXpXX1: 3.68601  V
** outVoltageBiasXXpXX2: 4.11401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerLoad2: 0.555001  V
** sourceGCC1: 4.40001  V
** sourceGCC2: 4.40001  V
** sourceTransconductance: 1.60501  V


.END